US07423042B2
e) N-Cyano-N′-(2-{[8-(2,6-difluorophenyl)-4-(2-methylphenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl) guanidine
To a solution of 2-[(2-aminoethyl)amino]-8-(2,6-difluorophenyl)-4-(2-methylphenyl)pyrido[2,3-d]pyrimidin-7(8H)-one (20 mg, 0.050 mmol) in isopropanol (2 mL) was added diphenyl cyanocarbonimidate (12 mg, 0.050 mmol) and the mixture was stirred for about 1 hour at about 20° C. A 2M solution of ammonia in isopropanol (2 ml) was added and the mixture stirred at about 20° C. for about 3 days. The solvent was evaporated and the residue redissolved in 2M ammonia in isopropanol (2 mL). The mixture was irradiated with microwave at about 60° C. for about 40 min. The mixture was stored in a sealed tube for 7 days. The solvent was evaporated and the crude product was purified to give the title compound (14 mg, 59%). LC-MS m/z 475 (M+H)+, 2.93 min (ret time).

reactant | 2-[(2-aminoethyl)amino]-8-(2,6-difluorophenyl)-4-(2-methylphenyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.050 mmol, 20 mg | NCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C2=C(C=CC=C2)C | C22H19F2N5O
reactant | diphenyl cyanocarbonimidate | 0.050 mmol, 12 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | ammonia | N | H3N
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | N-Cyano-N′-(2-{[8-(2,6-difluorophenyl)-4-(2-methylphenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl) guanidine | 14 mg, 59% | C(#N)NC(=N)NCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C2=C(C=CC=C2)C | C24H20F2N8O
